US08445509B2
Production of N-[6-(4-amino-3-chlorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
Using N-[6-(3-chloro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (300 mg, 0.805 mmol), reduced iron (237 mg, 4.02 mmol), ammonium chloride (430 mg, 8.05 mmol), ethanol (2 mL), tetrahydrofuran (2 mL) and water (0.5 mL), and in the same manner as in Reference Example 105, the title compound (166 mg, 60%) was obtained as a white solid.

reactant | N-[6-(3-chloro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.805 mmol, 300 mg | ClC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1[N+](=O)[O-] | C17H13ClN4O4
reactant | ammonium chloride | 8.05 mmol, 430 mg | [Cl-].[NH4+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | N-[6-(4-amino-3-chlorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 166 mg, 60% | NC1=C(C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)Cl | C17H15ClN4O2
